US07807686B2
A mixture of 2-[6-hydroxy-2-(3-methoxy-phenyl)-4-oxo-4H-quinazolin-3-yl]-N-isopropyl-acetamide (INTERMEDIATE IV.4) (200 mg, 0.55 mmol), N-Boc-2-piperidine ethanol (250 mg, 1.09 mmol) and resin-bound triphenylphosphine (˜3 mmol/g, 543 mg, 1.63 mmol) in dichloromethane (4.5 mL) and DMF (0.5 mL) was cooled to 0° C. and diisopropylazodicarboxylate (DIAD) (0.21 mL, 1.09 mmol) was added dropwise with stirring. The reaction mixture was allowed to warm to room temperature and stirring was continued for 16 h. The mixture was then filtered and concentrated in vacuo. The crude residue was dissolved in dichloromethane (100 mL) and washed with 1 N NaOH (aq.) and brine. The organic phase was dried (MgSO4), filtered and concentrated in vacuo. Purification by chromatography on silica gel with ethyl acetate:hexane (2:1, v/v) afforded 2-{2-[3-(isopropylcarbamoylmethyl)-2-(3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yloxy]ethyl}piperidine-1-carboxylic acid tert-butyl ester (65 mg, 0.11 mmol, 20%).

reactant | 2-[6-hydroxy-2-(3-methoxy-phenyl)-4-oxo-4H-quinazolin-3-yl]-N-isopropyl-acetamide | 0.55 mmol, 200 mg | OC=1C=C2C(N(C(=NC2=CC1)C1=CC(=CC=C1)OC)CC(=O)NC(C)C)=O | C20H21N3O4
reactant | N-Boc-2-piperidine ethanol | 1.09 mmol, 250 mg | C(=O)(OC(C)(C)C)N1C(CCCC1)CCO | C12H23NO3
reactant | triphenylphosphine | 1.63 mmol, 543 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 1.09 mmol, 0.21 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-{2-[3-(isopropylcarbamoylmethyl)-2-(3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yloxy]ethyl}piperidine-1-carboxylic acid tert-butyl ester | 0.11 mmol, 65 mg, 20% | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC=1C=C2C(N(C(=NC2=CC1)C1=CC(=CC=C1)OC)CC(NC(C)C)=O)=O | C32H42N4O6
